Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Latex / Tramadol / Ibuprofen / Fioricet / Mold 
Extracts / Cat/Feline Product Derivatives
 
Attending: ___
 
___ Complaint:
Right shoulder rash
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with recent right shoulder arthroscopy 
presents with rash over surgical site.
 
Past Medical History:
Asthma
allergic rhinitis

 
Social History:
___
Family History:
n/a
 
Physical Exam:
 Temp:99.0 HR:78 BP:105/64 Resp:20 O(2)Sat:98 
 
Constitutional: Comfortable
Extr/Back: Patient with erythema and thin-walled blisters 
around the operative site.
Neuro: Speech fluent
Psych: Normal mood, Normal mentation

 
Pertinent Results:
___ 04:30PM   PLT COUNT-292
___ 04:30PM   NEUTS-65.6 ___ MONOS-4.3 EOS-3.4 
BASOS-0.9
___ 04:30PM   WBC-8.1 RBC-4.68 HGB-14.1 HCT-42.8 MCV-92 
MCH-30.1 MCHC-32.8 RDW-13.5
___ 04:30PM   estGFR-Using this
___ 04:30PM   GLUCOSE-105* UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-30 ANION GAP-12
___ 04:31PM   LACTATE-2.0
___ 10:40PM   ___
___ 10:40PM   GLUCOSE-120* UREA N-8 CREAT-0.7 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12
 
Brief Hospital Course:
Ms ___ was admitted to the Orthopedic service on ___ for 
contact dermatitis of her right shoulder.  During her hospital 
stay she was seen by the Dermatology service for this rash.  
Dermatology recommended warm water soaks to remove crust and 
starting topical Clobetasol.  The remainder of her hospital 
course was uneventful and she is being discharged to home on 
___ in stable condition.
 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 1 to 2 puffs
inhaled four times a day as needed to relieve asthma
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - two sprays
intranasal daily as needed
IBUPROFEN - 600 mg Tablet - 1 Tablet(s) by mouth every 8 hours
LORAZEPAM - 0.5 mg Tablet - 2 Tablet(s) by mouth po @ hs;  1 po
bid or tid prn as needed for anxiety
MONTELUKAST [SINGULAIR] - 10 mg Tablet - one Tablet by mouth
daily
MORPHINE - 15 mg Tablet Sustained Release - 1 Tablet(s) by mouth
twice a day
OXYCODONE-ACETAMINOPHEN [PERCOCET] - 5 mg-325 mg Tablet - 1 to 2
Tablet(s) by mouth q4 to 6 hours as needed for pain
SALMETEROL [SEREVENT DISKUS] - 50 mcg Disk with Device - one 
puff
oral inhalation twice a day
 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
asthma.  
2. salmeterol 50 mcg/dose Disk with Device Sig: One (1) Disk 
with Device Inhalation Q12H (every 12 hours).  
3. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain for 2 weeks.
Disp:*50 Tablet(s)* Refills:*0*
4. diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
Q6H:PRN as needed for itching.
Disp:*60 Capsule(s)* Refills:*2*
5. clobetasol 0.05 % Cream Sig: One (1) Appl Topical TID (3 
times a day) as needed for contact dermatitis.
Disp:*1 tube* Refills:*2*
6. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours.  
7. Domeboro     Packet Sig: One (1) packet Topical four times a 
day for 2 weeks: Please dissolve 1 packet in 16 oz of NaCl and 
apply for ___ mins at a time. Please do NOT allow the cloth to 
dry  .
Disp:*60 packets* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Contact Dermatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Patient Discharge Instructions

Wound Care: 
- Keep Incision clean and dry. 
- Do not soak the incision in a bath or pool. 
- Apply Clobetasol as directed for treatment of contact 
dermatitis
Activity: 
- Continue to wear your sling for comfort and be non weight 
bearing on your right arm.

Other Instructions
- Resume your regular diet. 
- Avoid nicotine products to optimize healing. 
- Resume your home medications. Take all medications as 
instructed. 
- You have also been given Additional Medications to control 
your pain. Please allow 72 hours ___ through ___, 9am to 
4pm) for refill of narcotic prescriptions, so plan ahead. There 
will be no prescription refils on ___, or 
holidays. You can either have them mailed to your home or pick 
them up at the clinic located on ___ 2. We are not allowed 
to call in narcotic (oxycontin, oxycodone, percocet) 
prescriptions to the pharmacy. In addition, we are only allowed 
to write for pain medications for 90 days from the date of 
surgery.
- Narcotic pain medication may cause drowsiness. Do not drink 
alcohol while taking narcotic medications. Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications. Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.
Physical Therapy:
Activity:  Activity as tolerated
 Pneumatic boots
 Right upper extremity:  Non weight bearing
 Sling:   At all times

Treatments Frequency:
 Site: right shoulder 
 Type:  Exfoliating rash/skin reaction
 Dressing:  Adaptec
 Comment: no tape 

Clobetosol cream as directed
Warm water soaks to remove crust, Domeboro soaks as directed

 
Followup Instructions:
___